US07514470B2
Methyl N-[4-cyano-3-(trifluoromethyl)phenyl]-N-(2,2,2-trifluoroethyl)glycinate
Synthesized in a manner similar to step B of example 1 using 4-[(2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile and methyl bromoacetate: 1H NMR (400 MHz, CDCl3) δ 7.69 (d, J=8.8 Hz, 1H), 7.01 (d, J=2.4 Hz, 1H), 6.88 (dd, J=8.8, 2.6 Hz, 1H), 4.24 (s, 2H), 4.06 (q, J=8.5 Hz, 2H), 3.81 (s, 3H).

reactant | 4-[(2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile | FC(CNC1=CC(=C(C#N)C=C1)C(F)(F)F)(F)F | C10H6F6N2
reactant | methyl bromoacetate | BrCC(=O)OC | C3H5BrO2
product | Methyl N-[4-cyano-3-(trifluoromethyl)phenyl]-N-(2,2,2-trifluoroethyl)glycinate | C(#N)C1=C(C=C(C=C1)N(CC(=O)OC)CC(F)(F)F)C(F)(F)F | C13H10F6N2O2
